US07423149B2
A mixture of 0.04 g (0.11 mmol) of 3-(4′-acetyl-biphenyl-4-yl)-N-(4-chloro-phenyl) -acrylamidine, 0.028 g (0.33 mmol) of methoxylamine hydrochloride and 0.027 g (0.33 mmol) of sodium acetate in 3 mL of methanol was heated under microwave (100 W, 5 min). Diluted with 20 mL of NaHCO3, it was extracted with two 10 mL portions of ethyl acetate. The combined organic extracts were washed with 10 mL of brine, dried over Na2SO4, filtered and concentrated. The residue was purified by preparative TLC eluting with 70% ethyl acetate in hexanes plus 1% NH4OH to give 0.004 g of N-(4-chloro-phenyl)-3-[4′-(1-methoxyimino-ethyl)-biphenyl-4-yl]-acrylamidine.

reactant | 3-(4′-acetyl-biphenyl-4-yl)-N-(4-chloro-phenyl) -acrylamidine | 0.11 mmol, 0.04 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=CC(=N)NC1=CC=C(C=C1)Cl | C23H19ClN2O
reactant | methoxylamine hydrochloride | 0.33 mmol, 0.028 g | Cl.O(C)N
reactant | sodium acetate | 0.33 mmol, 0.027 g | C(C)(=O)[O-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
product | N-(4-chloro-phenyl)-3-[4′-(1-methoxyimino-ethyl)-biphenyl-4-yl]-acrylamidine | 0.004 g | ClC1=CC=C(C=C1)NC(C=CC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=NOC)=N | C24H22ClN3O
